US07566699B2
4-Hydroxy-3-(2-phenylethyl)benzo[b]thiophene
To a solution of 4-methoxy-3-(2-phenylethyl)benzo-[b]thiophene (0.77 g) in dichloromethane (25 mL) was added boron tribromide (0.54 mL) at −78° C., and the mixture was stirred at room temperature overnight. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with diethylether. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=6/1) to give the title compound (0.66 g).

reactant | 4-methoxy-3-(2-phenylethyl)benzo-[b]thiophene | 0.77 g | COC1=CC=CC=2SC=C(C21)CCC2=CC=CC=C2 | C17H16OS
reactant | boron tribromide | 0.54 mL | B(Br)(Br)Br | BBr3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 4-Hydroxy-3-(2-phenylethyl)benzo[b]thiophene | 0.66 g | OC1=CC=CC=2SC=C(C21)CCC2=CC=CC=C2 | C16H14OS
